US07989461B2
A solution of 5-methylthiophene-2-carbaldehyde (10 g, 79 mmol) in 30 ml of AcOH was added over a 7-hour period, with a syringe pump, to a stirring mixture of bromine (4.9 ml, 95 mmol) and 30 ml of AcOH, while the reaction was kept in the dark. The reaction was allowed to stir for 2 days and then poured slowly in 600 ml of 2M sodium carbonate. The mixture was stirred for 1 hour and extracted (3×) with ether. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate, loaded unto silica and purified by column chromatography on silica gel using a gradient of 5 to 25% EtOAc in hexanes to give 4-bromo-5-methylthiophene-2-carbaldehyde (11 g, 68% yield) as yellow solid. MP 58° C. as reported in literature.

reactant | 5-methylthiophene-2-carbaldehyde | 79 mmol, 10 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | bromine | 95 mmol, 4.9 ml | BrBr | Br2
solvent | AcOH | 30 ml | CC(=O)O | C2H4O2
solvent | sodium carbonate | 2M, 600 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | AcOH | 30 ml | CC(=O)O | C2H4O2
product | 4-bromo-5-methylthiophene-2-carbaldehyde | 11 g, 68% yield | BrC=1C=C(SC1C)C=O | C6H5BrOS
